US09388160B2
(E)-4-(piperidin-1-yl)but-2-enoic acid (550 mg, 3.4 mmol) and 10 drops of DMF were added in 20 ml DCM, and then oxalyl chloride (0.45 ml, 4.9 mmol) was added dropwise at 0° C. The solution was stirred for 1 hour at room temperature, then concentrated to a yellow solid. This intermediate was added in 50 ml THF, and then was added dropwisely into a solution of 7-ethoxy-N4-(3-ethynylphenyl)quinazoline-4,6-diamine (1 g, 3.28 mmol) and DIPEA (1 g, 7.7 mmol) in 200 ml THF in a ice bath. The reaction was stirred at 40° C. for 4 hours. The resulting reaction solution was concentrated to remove the excess of solvent, the residue was separated between 20 ml DCM and 20 ml saturated aqueous NaHCO3. The organic layer was concentrated and applied on a silica gel column (DCM/MeOH=10/1) to get (E)-N-(7-ethoxy-4-((3-ethynylphenyl)amino)quinazolin-6-yl)-4-(piperidin-1-yl)but-2-enamide as white solid 102 mg (6.8% yield). 1H-NMR (DMSO-d6): δ1.41-1.53 (m, 9H), 2.36 (m, 4H), 3.10-3.12 (m, 2H), 4.17 (s, 1H), 4.26-4.33 (m, 2H), 6.55 (d, J=15.3 Hz, 1H), 6.76-6.83 (m, 1H), 7.19 (d, J=7.5 Hz, 1H), 7.26 (s, 1H), 7.35-7.40 (m, 1H), 7.88 (d, J=8.2 Hz, 1H), 8.00 (s, 1H), 8.52 (s, 1H), 8.92 (s, 1H), 9.49 (s, 1H), 9.71 (s, 1H). MS m/z 456 [M+1].

reactant | (E)-4-(piperidin-1-yl)but-2-enoic acid | 3.4 mmol, 550 mg | N1(CCCCC1)C/C=C/C(=O)O | C9H15NO2
reactant | oxalyl chloride | 4.9 mmol, 0.45 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 7-ethoxy-N4-(3-ethynylphenyl)quinazoline-4,6-diamine | 3.28 mmol, 1 g | C(C)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)N | C18H16N4O
reactant | DIPEA | 7.7 mmol, 1 g | CCN(C(C)C)C(C)C | C8H19N
catalyst | DMF | 10 drops | CN(C)C=O | C3H7NO
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | (E)-N-(7-ethoxy-4-((3-ethynylphenyl)amino)quinazolin-6-yl)-4-(piperidin-1-yl)but-2-enamide | 102 mg, 6.8% yield | C(C)OC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=CC=C1)C#C)NC(\C=C\CN1CCCCC1)=O | C27H29N5O2
